US08703978B2
4′-Dodecyloxy-4-biphenylboronic acid
Butyllithium (6 ml, 1.6 M in hexanes, 9.6 mmol) was added dropwise to a solution of 4-bromo-4′-(dodecyloxy)biphenyl (4 g, 9.6 mmol) in THF (tetrahydrofuran) (150 mL) under N2 at −78° C. with stirring. Stirring was continued for 1 h and trimethyl borate (3 g, 28.8 mmol) was added. The resulting mixture was warmed to room temperature overnight, acidified with HCl (2 M, 100 mL), extracted with EtOAc (3×200 ml), dried (MgSO4) and the solvent removed under reduced pressure. The residue was filtered through a short plug of silica using EtOAc (0-100% gradient in DCM) as eluent. The solvent was removed under reduced pressure and the residue washed with hexane to give the title compound (0.84 g, 23%) as a colourless powder.

reactant | Butyllithium | 9.6 mmol, 1.6 M, 6 ml | C(CCC)[Li]
reactant | 4-bromo-4′-(dodecyloxy)biphenyl | 9.6 mmol, 4 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCCCCC | C24H33BrO
reactant | trimethyl borate | 28.8 mmol, 3 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | THF | 150 mL | O1CCCC1 | C4H8O
product | 4′-Dodecyloxy-4-biphenylboronic acid | 0.84 g, 23% | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C24H35BO3
